US06369273B1
(R)-N-[2-Chloro-4-(3-nitrophenylthio)phenyl]-2-hydroxy-2-methyl-3,3,3-trifluoropropanamide
A mixture of 3-nitrophenyl disulphide (0.176 g) and (R)-N-(2-chloro-4-iodophenyl) 2-hydroxy-2-methyl-3,3,3-trifluoropropanamide (0.1 5 g) in diphenyl ether (5 ml) was heated and stirred at 250° C. for 2 days. The reaction mixture was cooled, diluted with isohexane (5 ml) and purified by chromatography eluting with 10-100% dichloromethane/hexane to give the title compound (0.05 g) as an oil. NMR (CDCl3): 1.80 (s, 3H), 3.60 (s, 1H), 7.40-7.55 (m, 4H), 8.10 (br s, 2H), 8.45 (d, 1H), 9.05 (br s, 1H); MS: 421 (M+H)+.

reactant | 3-nitrophenyl disulphide | 0.176 g | [N+](=O)([O-])C=1C=C(C=CC1)SSC1=CC(=CC=C1)[N+](=O)[O-] | C12H8N2O4S2
reactant | (R)-N-(2-chloro-4-iodophenyl) 2-hydroxy-2-methyl-3,3,3-trifluoropropanamide | 5 g | ClC1=C(C=CC(=C1)I)NC([C@@](C(F)(F)F)(C)O)=O | C10H8ClF3INO2
solvent | diphenyl ether | 5 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | isohexane | 5 ml | CCCC(C)C | C6H14
product | (R)-N-[2-Chloro-4-(3-nitrophenylthio)phenyl]-2-hydroxy-2-methyl-3,3,3-trifluoropropanamide | 0.05 g | ClC1=C(C=CC(=C1)SC1=CC(=CC=C1)[N+](=O)[O-])NC([C@@](C(F)(F)F)(C)O)=O | C16H12ClF3N2O4S
